* ldo_ihp_capless x loop_stability x ihp-sg13g2 x tt -- built by ldo.dut.Design
.lib cornerMOSlv.lib mos_tt
.lib cornerRES.lib res_typ
.lib cornerCAP.lib cap_typ
.temp 27

.param VDD=1.5

Vdd  vdd 0 dc {VDD}
Vss  vss 0 dc 0
Iload vout 0 dc 1m
CLoad vout 0 1p
Iac  vout 0 dc 0 ac 1

XDUT vdd vout vss ldo_ihp_capless

.control
  set filetype=ascii
  ac dec 20 10 100meg
  meas ac zout_dc  FIND vdb(vout) AT=10
  meas ac zout_max MAX  vdb(vout)
  let zout_peak_db = zout_max - zout_dc
  print zout_peak_db
  write
  quit
.endc
.param vref_val=0.6
.param r_w=0.5u
.param r_fb_l=340u
.param c_ff_w=8u
.param r_bias_l=138.5u
.param x_dut_xmb0_w=1u
.param x_dut_xmb0_l=1u
.param x_dut_xmb1_w=1.39u
.param x_dut_xmbp_w=10u
.param x_dut_xmbp_l=1u
.param x_dut_xmt_w=10u
.param x_dut_xm1_w=9.53u
.param x_dut_xm1_l=0.5u
.param x_dut_xm3_w=2.95u
.param x_dut_xm3_l=1u
.param x_dut_xm5_w=2.42u
.param x_dut_xm5_l=0.5u
.param x_dut_xm6_w=5.53u
.param c_comp_w=54u
.param x_dut_xmc_w=15.76u
.param x_dut_xmc_l=0.36u
.param x_dut_xma_w=5.79u
.param x_dut_xma_l=0.5u
.param x_dut_xmcp_w=9.02u
.param x_dut_xmcp_l=0.5u
.param x_dut_xms_w=2.2u
.param x_dut_xms_l=0.95u
.param x_dut_xmp_w=10u
.param x_dut_xmp_l=0.13u
.param x_dut_xmp_m=19
.param x_dut_xmp_nf_mult=4
.param c_out_w=58u
.param c_out_m=4
.subckt ldo_ihp_capless vdd vout vss
VREF vref vss dc {vref_val}
VLP lp_brk vout dc 0
XR1_1 lp_brk n_r1_1 vss rhigh w=r_w l={r_fb_l/8}
XR1_2 n_r1_1 n_r1_2 vss rhigh w=r_w l={r_fb_l/8}
XR1_3 n_r1_2 n_r1_3 vss rhigh w=r_w l={r_fb_l/8}
XR1_4 n_r1_3 n_r1_4 vss rhigh w=r_w l={r_fb_l/8}
XR1_5 n_r1_4 n_r1_5 vss rhigh w=r_w l={r_fb_l/8}
XR1_6 n_r1_5 n_r1_6 vss rhigh w=r_w l={r_fb_l/8}
XR1_7 n_r1_6 n_r1_7 vss rhigh w=r_w l={r_fb_l/8}
XR1_8 n_r1_7 fb vss rhigh w=r_w l={r_fb_l/8}
XCFF lp_brk fb cap_cmim w=c_ff_w l=c_ff_w
XR2_1 fb n_r2_1 vss rhigh w=r_w l={r_fb_l/8}
XR2_2 n_r2_1 n_r2_2 vss rhigh w=r_w l={r_fb_l/8}
XR2_3 n_r2_2 n_r2_3 vss rhigh w=r_w l={r_fb_l/8}
XR2_4 n_r2_3 n_r2_4 vss rhigh w=r_w l={r_fb_l/8}
XR2_5 n_r2_4 n_r2_5 vss rhigh w=r_w l={r_fb_l/8}
XR2_6 n_r2_5 n_r2_6 vss rhigh w=r_w l={r_fb_l/8}
XR2_7 n_r2_6 n_r2_7 vss rhigh w=r_w l={r_fb_l/8}
XR2_8 n_r2_7 vss vss rhigh w=r_w l={r_fb_l/8}
XRB_1 vdd n_rb_1 vss rhigh w=r_w l={r_bias_l/5}
XRB_2 n_rb_1 n_rb_2 vss rhigh w=r_w l={r_bias_l/5}
XRB_3 n_rb_2 n_rb_3 vss rhigh w=r_w l={r_bias_l/5}
XRB_4 n_rb_3 n_rb_4 vss rhigh w=r_w l={r_bias_l/5}
XRB_5 n_rb_4 nbias vss rhigh w=r_w l={r_bias_l/5}
XMB0A nbias nbias vss vss sg13_lv_nmos l=x_dut_xmb0_l w={x_dut_xmb0_w/2}
XMB0B nbias nbias vss vss sg13_lv_nmos l=x_dut_xmb0_l w={x_dut_xmb0_w/2}
XMB1A pbias nbias vss vss sg13_lv_nmos l=x_dut_xmb0_l w={x_dut_xmb1_w/2}
XMB1B pbias nbias vss vss sg13_lv_nmos l=x_dut_xmb0_l w={x_dut_xmb1_w/2}
XMBP pbias pbias vdd vdd sg13_lv_pmos l=x_dut_xmbp_l w=x_dut_xmbp_w
XMT ea_tail pbias vdd vdd sg13_lv_pmos l=x_dut_xmbp_l w=x_dut_xmt_w
XM1A ea_n fb ea_tail vdd sg13_lv_pmos l=x_dut_xm1_l w={x_dut_xm1_w/2}
XM1B ea_n fb ea_tail vdd sg13_lv_pmos l=x_dut_xm1_l w={x_dut_xm1_w/2}
XM2A ea_o1 vref ea_tail vdd sg13_lv_pmos l=x_dut_xm1_l w={x_dut_xm1_w/2}
XM2B ea_o1 vref ea_tail vdd sg13_lv_pmos l=x_dut_xm1_l w={x_dut_xm1_w/2}
XM3A ea_n ea_n vss vss sg13_lv_nmos l=x_dut_xm3_l w={x_dut_xm3_w/2}
XM3B ea_n ea_n vss vss sg13_lv_nmos l=x_dut_xm3_l w={x_dut_xm3_w/2}
XM4A ea_o1 ea_n vss vss sg13_lv_nmos l=x_dut_xm3_l w={x_dut_xm3_w/2}
XM4B ea_o1 ea_n vss vss sg13_lv_nmos l=x_dut_xm3_l w={x_dut_xm3_w/2}
XM5 ea_out ea_o1 vss vss sg13_lv_nmos l=x_dut_xm5_l w=x_dut_xm5_w
XM6 ea_out pbias vdd vdd sg13_lv_pmos l=x_dut_xmbp_l w=x_dut_xm6_w
XCC ea_out ea_o1 cap_cmim w=c_comp_w l=c_comp_w
XMC x1 ea_out vout vdd sg13_lv_pmos l=x_dut_xmc_l w=x_dut_xmc_w
XMA x1 x1 vss vss sg13_lv_nmos l=x_dut_xma_l w=x_dut_xma_w
XMB y x1 vss vss sg13_lv_nmos l=x_dut_xma_l w=x_dut_xma_w
XMCP y y vdd vdd sg13_lv_pmos l=x_dut_xmcp_l w=x_dut_xmcp_w
XMD gate y vdd vdd sg13_lv_pmos l=x_dut_xmcp_l w=x_dut_xmcp_w
XMSA gate nbias vss vss sg13_lv_nmos l=x_dut_xms_l w={x_dut_xms_w/2}
XMSB gate nbias vss vss sg13_lv_nmos l=x_dut_xms_l w={x_dut_xms_w/2}
XMP vout gate vdd vdd sg13_lv_pmos l=x_dut_xmp_l w={x_dut_xmp_w/x_dut_xmp_nf_mult} m={x_dut_xmp_m*x_dut_xmp_nf_mult}
XCOUT vout vss cap_cmim w=c_out_w l=c_out_w m=c_out_m
.ends
.end
